US09085517B2
To a solution of ethyl 4-{[3-chloro-4-(trifluoromethyl)phenoxy]methyl}benzoate (Preparation 18, 125 mg, 0.35 mmol) in methanol (5.0 mL) was added water (2.0 mL) followed by sodium hydroxide (140 mg, 3.5 mmol). The reaction mixture was heated to 55° C. for 18 hours, then cooled and diluted with EtOAc (50 mL) and 2M HCl (50 mL). The aqueous layer was separated and washed with EtOAc (2×50 mL). The combined organics were dried over magnesium sulfate, filtered and concentrated in vacuo to yield 4-{[3-chloro-4-(trifluoromethyl)phenoxy]methyl}benzoic acid as an off-white solid (90 mg, 78% yield). This solid was dissolved in dichloromethane (3 mL) then EDCI (344 mg, 1.79 mmol) and DMAP (88 mg, 0.70 mmol) were added, followed by the addition of N,N-dimethylsulfamide (86 mg, 0.70 mmol). The reaction was left to stir at room temperature for 2 hours. A solution of 2M HCl (10 mL) was added and the mixture separated using a phase separation cartridge. The organics were dried in vacuo to yield a solid which was triturated with heptane:IPA (4:1, 100 mL) and sonicated. The supernatant was decanted and the residue dried in vacuo to yield an off-white solid as the title compound (57 mg, 38% yield).

reactant | ethyl 4-{[3-chloro-4-(trifluoromethyl)phenoxy]methyl}benzoate | 0.35 mmol, 125 mg | ClC=1C=C(OCC2=CC=C(C(=O)OCC)C=C2)C=CC1C(F)(F)F | C17H14ClF3O3
reactant | water | 2.0 mL | O | H2O
reactant | sodium hydroxide | 3.5 mmol, 140 mg | [OH-].[Na+]
solvent | methanol | 5.0 mL | CO | CH4O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | HCl | 2M, 50 mL | Cl | ClH
product | 4-{[3-chloro-4-(trifluoromethyl)phenoxy]methyl}benzoic acid | 90 mg, 78% yield | ClC=1C=C(OCC2=CC=C(C(=O)O)C=C2)C=CC1C(F)(F)F | C15H10ClF3O3
